US07189738B2
5-Chloro-N-(1,3-dioxo-2-{2-[4-(4-pyridinyl)piperazino]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide
310 mg (1 mmol) of 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide and 0.64 g (1 mmol) of 2-[4-(4-pyridinyl)piperazino]ethylamine (obtainable by heating 4-chloropyridine with aminoethylpiperazine or according to German Offenlegungschrift 2024350) are boiled in 40 ml of glacial acetic acid overnight. 340 mg of 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide are added and the mixture is then boiled for another 24 h and subsequently concentrated under reduced pressure, water is added, the aqueous phase is extracted four times with ethyl acetate and the combined organic phases are dried with Na2SO4, admixed with silica gel and concentrated under reduced pressure. Chromatography on silica gel using a toluene/ethyl acetate→toluene/ethanol gradient gives 140 mg (28.2% of theory) of the target compound of m.p. 168° C. and Rf (SiO2, toluene/ethanol=1:1)=0.28.

reactant | 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide | 1 mmol, 310 mg | ClC1=CC=C(S1)C(=O)NC1=CC=CC=2C(OC(C21)=O)=O | C13H6ClNO4S
reactant | 2-[4-(4-pyridinyl)piperazino]ethylamine | 1 mmol, 0.64 g | N1=CC=C(C=C1)N1CCN(CC1)CCN | C11H18N4
reactant | 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide | 340 mg | ClC1=CC=C(S1)C(=O)NC1=CC=CC=2C(OC(C21)=O)=O | C13H6ClNO4S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 5-Chloro-N-(1,3-dioxo-2-{2-[4-(4-pyridinyl)piperazino]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCN1CCN(CC1)C1=CC=NC=C1)=O | C24H22ClN5O3S
